US04305868
2-[3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionamido]ethyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate
A mixture of 32 g (0.1 mole) of 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-N-(2-hydroxyethyl)propionamide, 27 g (0.1 mole) of 3(3,5-di-tert-butyl-4-hydroxyphenyl)propionic acid, 1 g Tyzor TBT catalyst and 100 ml xylene was refluxed at 150° until evolution of water ceased. In the course of four hours, two ml water was collected in the Stark & Dean trap. The xylene was removed by vacuum stripping. The title compound (54 g) was recrystallized from a toluene/hexane mixture. It melted at 151°-154° C.

reactant | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-N-(2-hydroxyethyl)propionamide | 0.1 mole, 32 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NCCO | C19H31NO3
reactant | 3(3,5-di-tert-butyl-4-hydroxyphenyl)propionic acid | 0.1 mole, 27 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)O | C17H26O3
reactant | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Tyzor TBT | 1 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
solvent | water | O | H2O
product | 2-[3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionamido]ethyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCCNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C36H55NO5
